US09403847B2
Step C: 3-Bromo-5-methylimidazo[1,2-a]pyridine-2-carboxylic acid hydrochloride
A solution of ethyl 3-bromo-5-methylimidazo[1,2-a]pyridine-2-carboxylate (0.62 g, 2.2 mmol) in ethanol (3.3 mL) and tetrahydrofuran (3.3 mL) was treated with 1 M sodium hydroxide (6.5 mL, 6.5 mmol) and stirred at 20° C. for 2 h. The reaction mixture was concentrated and the resultant solid was diluted with water, cooled to 0° C., and treated with 1 M hydrogen chloride (8.7 mL, 8.7 mmol) dropwise. The aqueous mixture was concentrated to a solid that was diluted with acetonitrile and reconcentrated (2×) to give the desired product which contained sodium chloride. This material was used without further purification. LCMS for C9H8BrN2O2 (M+H)+: m/z=255.0, 257.0.

reactant | ethyl 3-bromo-5-methylimidazo[1,2-a]pyridine-2-carboxylate | 2.2 mmol, 0.62 g | BrC1=C(N=C2N1C(=CC=C2)C)C(=O)OCC | C11H11BrN2O2
reactant | sodium hydroxide | 6.5 mmol, 1 M, 6.5 mL | [OH-].[Na+]
reactant | hydrogen chloride | 8.7 mmol, 1 M, 8.7 mL | Cl | ClH
solvent | ethanol | 3.3 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 3.3 mL | O1CCCC1 | C4H8O
product | 3-Bromo-5-methylimidazo[1,2-a]pyridine-2-carboxylic acid hydrochloride | Cl.BrC1=C(N=C2N1C(=CC=C2)C)C(=O)O | InChI=1S/C9H7BrN2O2.ClH/c1-5-3-2-4-6-11-7(9(13)14)8(10)12(5)6;/h2-4H,1H3,(H,13,14);1H
